US07678820B2
To a solution of ethyl (7-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}imidazo[1,2-a]pyridin-2-yl)acetate (230 mg) in THF (2.0 ml) was added a 1M aqueous NaOH solution (1.0 ml), followed by stirring at 80° C. for 2 hours. After cooling to room temperature, a 1 M HCl aqueous solution (1.0 ml) was added thereto, followed by extraction with chloroform. The organic layer was dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform:CH3OH=10:1 to 5:1) to obtain colorless powders. To a solution of this colorless powder in EtOAc was added a 4M HCl/EtOAc solution, followed by concentration. The resulting colorless powder was powdered/washed with IPE to obtain (7-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}imidazo[1,2-a]pyridin-2-yl)acetic acid hydrochloride (180.4 mg) as colorless powders.

reactant | ethyl (7-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}imidazo[1,2-a]pyridin-2-yl)acetate | 230 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=CC=2N(C=C1)C=C(N2)CC(=O)OCC)(F)F | C23H18F6N4O4
reactant | NaOH | 1M, 1.0 ml | [OH-].[Na+]
reactant | HCl | 1 M, 1.0 ml | Cl | ClH
reactant | HCl EtOAc | 4M | Cl.CCOC(=O)C
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (7-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}imidazo[1,2-a]pyridin-2-yl)acetic acid hydrochloride | 180.4 mg | Cl.FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=CC=2N(C=C1)C=C(N2)CC(=O)O)(F)F | InChI=1S/C21H14F6N4O4.ClH/c1-10(20(22,23)24)34-15-3-2-12(6-14(15)21(25,26)27)19-29-18(30-35-19)11-4-5-31-9-13(8-17(32)33)28-16(31)7-11;/h2-7,9-10H,8H2,1H3,(H,32,33);1H
